US06455566B1
1-(5-Chloro-2-methyl-phenyl)-3-(1-methyl-1H-pyrazol-3-yl)-thiourea
Prepared using Method A from 4.73 g (27.5 mmol) of 5-chloro-2-methyl-phenyl isothiocyanate and 2.5 g (25.7 mmol) of 1-methyl-3-aminopyrazole to give 6.8 g of title compound as a white solid (95% yield, m.p. 217-218° C.)

reactant | 5-chloro-2-methyl-phenyl isothiocyanate | 27.5 mmol, 4.73 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
reactant | 1-methyl-3-aminopyrazole | 25.7 mmol, 2.5 g | CN1N=C(C=C1)N | C4H7N3
product | 1-(5-Chloro-2-methyl-phenyl)-3-(1-methyl-1H-pyrazol-3-yl)-thiourea | 6.8 g, 95% yield | ClC=1C=CC(=C(C1)NC(=S)NC1=NN(C=C1)C)C | C12H13ClN4S
